US07402595B2
[Step 1] To a mixture of 4-chlorophthalic acid anhydride (25.3 g) and bromobenzene (200 ml) was added aluminum chloride (37.1 g) at room temperature with stirring and the mixture was stirred at the same temperature for 1 hr. and then stirred at 100° C. for 30 min. After cooling the reaction mixture, the mixture was diluted with ethyl acetate and was added to ice water. To this mixture, conc. hydrochloric acid (20 ml) was added and the mixture was stirred at room temperature for 1 hr. and the organic layer was partitioned. The organic layer was washed successively with 4N hydrochloric acid, water and saturated brine and dried over magnesium sulfate. The organic layer was concentrated until crystals precipitated, the precipitated crystals were collected by filtration, and recrystallization from toluene was repeated to give 2-(4-bromobenzoyl)-4-chlorobenzoic acid (12 g) as colorless crystals. [Step 2] To a mixture of 2-(4-bromobenzoyl)-4-chlorobenzoic acid (7.1 g), 1-(4-methanesulfonylbenzylamino)butan-2-ol (5.4 g) and acetonitrile (140 ml) were added 1-hydroxy-1H-benzotriazole monohydrate (3.5 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (5.2 g) at room temperature and the mixture was stirred at the same temperature for 18 hrs. The solvent was evaporated under reduced pressure, and the residue was diluted with ethyl acetate. This solution was washed with 1N hydrochloric acid and saturated aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane/ethyl acetate=2/1→1/4) to give 2-(4-bromobenzoyl)-4-chloro-N-(2-hydroxybutyl)-N-(4-methanesulfonylbenzyl)benzamide (5.2 g) as a colorless powder. [Step 3] To a mixture of 2-(4-bromobenzoyl)-4-chloro-N-(2-hydroxybutyl)-N-(4-methanesulfonylbenzyl)benzamide (5.2 g), triethylamine (20 ml) and DMSO (52 ml) was added dropwise gently pyridine sulfur trioxide complex (11.5 g) in DMSO (10 ml) at room temperature with stirring, and the mixture was stirred at room temperature for 2 hrs. After confirmation of the completion of the reaction, the mixture was diluted with ethyl acetate and washed with water. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. Then, the residue was dissolved in toluene (52 ml) 1,8-diazabicyclo[5.4.0]-7-undecene (2.7 ml) was added, and the mixture was stirred at 80° C. for 18 hrs. The mixture was diluted with ethyl acetate, washed with 1N hydrochloric acid, dried (MgSO4) and concentrated under reduced pressure. The residue was purified by medium pressure preparative LC (hexane/ethyl acetate=2/1-1/2), and crystallized from methanol to give the title compound (3.2 g) in beige crystals. 1H NMR (CDCl3) δ: 0.59 (3H, t, J=7.2 Hz), 1.80 (2H, q, J=7.2 Hz), 3.02 (3H, s), 5.34 (2H, s), 7.17 (2H, d, J=8.4 Hz) 7.23 (1H, d, J=1.8 Hz), 7.44 (2H, d, J=8.1 Hz), 7.54 (1H, dd, J=1.8, 8.7 Hz),7.63 (2H, d, J=8.4 Hz), 7.89 (2H, d, J=8.1 Hz), 8.47 (1H, d, J=8.7 Hz). HPLC analysis: purity 97.0% (retention time: 4.86 min).

reactant | 4-chlorophthalic acid anhydride | 25.3 g | ClC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3ClO3
reactant | bromobenzene | 200 ml | BrC1=CC=CC=C1 | C6H5Br
reactant | aluminum chloride | 37.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-bromobenzoyl)-4-chlorobenzoic acid | 12 g | BrC1=CC=C(C(=O)C2=C(C(=O)O)C=CC(=C2)Cl)C=C1 | C14H8BrClO3
